US05057614
260 mg of a 60% dispersion of sodium hydride in mineral oil were added to a solution of 295 mg of benzimidazole in 10 ml of DMF and the mixture was stirred under nitrogen for 0.5 hour. 582 mg of 3-bromo-4-(3-indolyl)-1H-pyrrole-2,5-dione were added and the mixture was heated to 50° C. for 18 hours. A solution of 767 mg of benzimidazole and 260 mg of sodium hydride in 10 ml of DMF was added and the mixture was heated to 90° C. for 18 hours under nitrogen. The solvent was evaporated and the residue was partitioned between dichloromethane and 2M hydrochloric acid. The precipitate was purified on silica gel with ethyl acetate/petroleum ether. Recrystallization from ethyl acetate gave 25 mg of 3-(1-benzimidazolyl)-4-(3-indolyl)-1H-pyrrole-2,5-dione, m.p. 310°-320° C.

reactant | sodium hydride | [H-].[Na+]
reactant | benzimidazole | 295 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 3-bromo-4-(3-indolyl)-1H-pyrrole-2,5-dione | 582 mg | BrC=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C12H7BrN2O2
reactant | benzimidazole | 767 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 260 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(1-benzimidazolyl)-4-(3-indolyl)-1H-pyrrole-2,5-dione | 25 mg | N1(C=NC2=C1C=CC=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C19H12N4O2
